US06890938B2
To 4-fluorobenzaldehyde (2.48 g) in MeOH was added methylamine (40% aqueous solution, 2.0 mL). The reaction mixture was stirred at RT for 12 h at which time NaBH4 (0.38 g) was added. After stirring for 1 h the reaction was quenched with H2O and extracted with ethyl acetate. The combined extracts were dried, filtered, and concentrated to yield (4-fluorobenzyl)-methylamine (2.30 g) which was used without further purification.

reactant | 4-fluorobenzaldehyde | 2.48 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methylamine | 2.0 mL | CN | CH5N
reactant | NaBH4 | 0.38 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | (4-fluorobenzyl)-methylamine | 2.30 g | FC1=CC=C(CNC)C=C1 | C8H10FN
